US04837242
1.3 g of ethyl 2-methyl-4-trifluoromethylthiazole-5-carboxylate and 0.4 g of potassium hydroxide were dissolved in a mixture of 5 ml each of water and ethanol and reaction was effected at room temperature overnight. After the reaction, the reaction mixture was concentrated and acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract was concentrated to obtain 0.89 g of 2-methyl-4-trifluoromethylthiazole-5-carboxylic acid.

reactant | ethyl 2-methyl-4-trifluoromethylthiazole-5-carboxylate | 1.3 g | CC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C8H8F3NO2S
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | water | 5 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-methyl-4-trifluoromethylthiazole-5-carboxylic acid | 0.89 g | CC=1SC(=C(N1)C(F)(F)F)C(=O)O | C6H4F3NO2S
